data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3691,4212,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[CH:10]#[N+:11][C-:12]([C:13]#[N:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:10]=[N:11][C:12]1([C:13]#[N:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,7.746565454957273,-37.10981839746679
2456,2724,[CH3:24][C:25](=[O:26])[C-:27]([C:28]#[N:29])[O+:30]=[C:31]([C:32]#[N:33])[C:34]#[N:35].[N:1]#[C:2][C:3]1([Cl:4])[C:5]#[C:6][C:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1>>[N:1]#[C:2][C:3]1([Cl:4])[C:5]2=[C:6]([C:7]([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:27]([C:25]([CH3:24])=[O:26])([C:28]#[N:29])[O:30][C:31]2([C:32]#[N:33])[C:34]#[N:35],water,298.15,17.10043807507218,-54.34666973530193
4943,5629,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16](=[O:17])[O:18][CH3:19])=[N+:20]([CH3:21])[C-:22]([CH3:23])[C:24]([CH3:25])=[O:26]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:22]([CH3:23])([C:24]([CH3:25])=[O:26])[N:20]([CH3:21])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:16](=[O:17])[O:18][CH3:19],water,298.15,30.89752812838357,-18.025259638021726
2707,3007,[CH3:1][C:2]1([C:3]#[N:4])[C:5]#[C:6][C:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1.[N:24]#[C:25][C:26](=[O+:27][CH-:28][c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[c:35]1[cH:36][cH:37][cH:38][cH:39][cH:40]1>>[CH3:1][C:2]1([C:3]#[N:4])[C:5]2=[C:6]([C:7]([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:26]([C:25]#[N:24])([c:35]1[cH:36][cH:37][cH:38][cH:39][cH:40]1)[O:27][CH:28]2[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,8.64304517714678,-52.94098588294915
3886,4446,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][N-:16][C:17](=[O:18])[O:19][CH3:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:16]([C:17](=[O:18])[O:19][CH3:20])[N:15]=[C:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,16.581846503880726,-39.96872234366611
4703,5361,[CH3:10][O:11][C:12](=[O:13])[C:14](=[O+:15][CH-:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23]([CH3:24])=[O:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:23]([CH3:24])=[O:25])[O:15][CH:16]1[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,12.368560466579693,-25.135995161512984
3179,3587,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C:6](=[O:7])[c-:8]1[c:9](=[O:10])[o:11][c:12]([C:13]#[N:14])[n+:15]1[CH3:16]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:8]2([C:6]([CH3:5])=[O:7])[C:9](=[O:10])[O:11][C:12]1([C:13]#[N:14])[N:15]2[CH3:16],water,298.15,24.36470031283656,-3.1161156573633693
4748,5423,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17]#[N:18])[C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[NH:15][C:16]1([C:17]#[N:18])[C:19]#[N:20],water,298.15,17.819417617074443,-12.001636936481974
3946,4512,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([CH3:14])[N+:15]([CH3:16])=[C:17]([C:18]#[N:19])[C:20]#[N:21].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([CH3:14])[N:15]([CH3:16])[C:17]1([C:18]#[N:19])[C:20]#[N:21],water,298.15,25.22688555067779,-14.530571338992202
271,295,[CH3:11][C:12](=[O:13])[CH-:14][N+:15]([CH3:16])=[CH:17][C:18]#[N:19].[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([CH3:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[CH:17]([C:18]#[N:19])[N:15]([CH3:16])[CH:14]2[C:12]([CH3:11])=[O:13],water,298.15,13.059238975909498,-33.6939476687249
2754,3060,[CH3:19][NH:20][C:21](=[O:22])[c-:23]1[c:24](=[O:25])[o:26][c:27]([C:28]([CH3:29])=[O:30])[n+:31]1[CH3:32].[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]#[C:11][C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]2=[C:11]([C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]1([C:21]([NH:20][CH3:19])=[O:22])[C:24](=[O:25])[O:26][C:27]2([C:28]([CH3:29])=[O:30])[N:31]1[CH3:32],water,298.15,23.556219663963805,-7.075571029643601
